US06656971B2
5-(naphthalene-2-yloxy)-isophthalic acid.
A solution of LiOH (1.5 mmol) in water (1 ml) was added to 5-(naphthalene-2-yloxy)-isophthalic acid dimethylester (0.5 mmol) suspended in 5 ml EtOH. The mixture was stirred at room temperature. The reaction was monitored by TLC until completion. 2.5 ml 1 M HCl solution was added and the precipitation was collected. The product was used in next step without further purification.

reactant | LiOH | 1.5 mmol | [Li+].[OH-]
reactant | 5-(naphthalene-2-yloxy)-isophthalic acid dimethylester | 0.5 mmol | COC(C1=CC(C(=O)OC)=CC(=C1)OC1=CC2=CC=CC=C2C=C1)=O | C20H16O5
reactant | HCl | 1 M, 2.5 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
solvent | EtOH | 5 ml | CCO | C2H6O
product | 5-(naphthalene-2-yloxy)-isophthalic acid | C1=C(C=CC2=CC=CC=C12)OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C18H12O5
